US06008230
To a solution of sodium dihydrogenphosphate (395 mg) and 2-methyl-2-butene (578 mg) in tert-butanol (6 ml) and water (1.5 ml) was added 8-(2,6-dichlorobenzoylamino)-3-ethyl-4-formylquinoline (615 mg) at ambient temperature, and to the mixture was portionwise added sodium chlorite (298 mg) at the same temperature. The mixture was stirred for 3 hours at the same temperature. The mixture was quenched by diluted hydrochloric acid and extracted with dichloromethane. The extract was dried over magnesium sulfate and evaporated in vacuo. The residue was recrystallized from ethyl acetate-n-hexane to give 4-carboxy-8-(2,6-dichlorobenzoylamino)-3-ethylquinoline (404 mg).

reactant | sodium dihydrogenphosphate | 395 mg | P(=O)(O)(O)[O-].[Na+]
reactant | 2-methyl-2-butene | 578 mg | CC(C)=CC | C5H10
reactant | 8-(2,6-dichlorobenzoylamino)-3-ethyl-4-formylquinoline | 615 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=C(C=NC23)CC)C=O)C(=CC=C1)Cl | C19H14Cl2N2O2
reactant | sodium chlorite | 298 mg | Cl(=O)[O-].[Na+]
solvent | tert-butanol | 6 ml | C(C)(C)(C)O | C4H10O
solvent | water | 1.5 ml | O | H2O
product | 4-carboxy-8-(2,6-dichlorobenzoylamino)-3-ethylquinoline | 404 mg | C(=O)(O)C1=C(C=NC2=C(C=CC=C12)NC(C1=C(C=CC=C1Cl)Cl)=O)CC | C19H14Cl2N2O3
